US04250094
In the manner given in Preparation 2, 7,9-dimethyl-5-[p-(methylthio)phenyl]-3H-1,4-benzodiazepin-2-yl hydrazine was reacted with bromoacetyl bromide and after 1.5 hours with sodium acetate, than the mixture was refluxed to give 8,10-dimethyl-1-(bromomethyl)-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7,9-dimethyl-5-[p-(methylthio)phenyl]-3H-1,4-benzodiazepin-2-yl hydrazine | CC=1C=C(C2=C(C(=NCC(=N2)NN)C2=CC=C(C=C2)SC)C1)C | C18H20N4S
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 8,10-dimethyl-1-(bromomethyl)-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CC=1C=C(C2=C(C(=NCC=3N2C(=NN3)CBr)C3=CC=C(C=C3)SC)C1)C | C20H19BrN4S
